Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
s/p Fall, Transfer
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M with PMHx hypothyroidism, smoker who presents as transfer 
from ___.  Patient had a mechanical fall ___ 
evening when he slipped down three icy stairs, falling onto his 
left side. No head strike or LOC.  Noted immediate left sided 
chest pain, aggravated by movement, alleviated by Tylenol and 
Ultram.  On ___ evening, developed a productive cough with 
terrible left sided rib pain with coughing.  Denies pleuritic 
chest pain, fevers, chills.  Of note, endorses a few days prior 
to mechanical fall of sore throat and rhinorrhea.  CT at 
___ showed left sided rib fractures (___) and bilateral 
lower lobe consolidation.  Transferred to ___ for trauma 
surgery evaluation given multiple rib fractures.

In the ED, initial VS were T98.4 HR74 BP124/75 RR16 96%RA  
Exam notable for CTAB, L posterior rib ecchymosis, tender to 
palpation over posterior left lower ribs 
Labs showed MCV 101 Plt 93 BMP wnl
Imaging CT showed left sided rib fractures (___) and bilateral 
lower lobe consolidation.
Received
___ 06:19 IV Morphine Sulfate 4 mg   
___ 06:19 IV Ondansetron 4 mg  
___ 08:25 IV Levofloxacin 750 mg  
___ 16:21 PO Acetaminophen 1000 mg  
Transfer VS were T99.3 HR87 BP132/69 RR18 99%RA 
Trauma Surgery were consulted who will follow patient. 
Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports HPI as above.  He is 
requesting a lidocaine patch to place on ribs.  He is also 
requesting a nicotine patch.  He states he drinks ___ drinks per 
evening (averages 5 nights per week) but never has had any etoh 
withdrawal symptoms.  

REVIEW OF SYSTEMS:  
(-) Fever, chills, night sweats, headache, vision changes, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria. 
 
All other 10-system review negative in detail.  
 
Past Medical History:
Hypothyroidism
Hx of Prostatitis
CCY ___

 
Social History:
___
Family History:
Father deceased old age ___, Mother decreased sarcoidosis age ___

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VS: T98.5 BP124/61 HR72 RR20 99RA
GENERAL: NAD, sitting up in bed reading a book  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
CHEST: Left lateral ecchymosis, ttp L mid rib cage
ABDOMEN: protuberant abdomen, +BS, nontender in all quadrants, 
no rebound/guarding
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, no focal deficits 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM:
=======================
VS: T98.1 BP148/78 HR66 RR18 96RA
GENERAL: NAD, sitting up at edge of bed eating breakfast, NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
CHEST: Left lateral ecchymosis, ttp L mid rib cage
ABDOMEN: protuberant abdomen, +BS, nontender in all quadrants, 
no rebound/guarding
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, no focal deficits 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:15AM BLOOD WBC-4.8 RBC-4.03* Hgb-14.3 Hct-40.6 
MCV-101* MCH-35.5* MCHC-35.2 RDW-12.1 RDWSD-45.3 Plt Ct-93*
___ 06:15AM BLOOD Neuts-72.4* Lymphs-15.8* Monos-7.9 
Eos-2.9 Baso-0.6 Im ___ AbsNeut-3.49 AbsLymp-0.76* 
AbsMono-0.38 AbsEos-0.14 AbsBaso-0.03
___ 06:15AM BLOOD Glucose-83 UreaN-8 Creat-0.6 Na-138 K-4.5 
Cl-98 HCO3-26 AnGap-19

DISCHARGE LABS:
==============
___ 07:06AM BLOOD WBC-4.2 RBC-4.26* Hgb-14.5 Hct-43.1 
MCV-101* MCH-34.0* MCHC-33.6 RDW-12.2 RDWSD-45.9 Plt ___
___ 07:06AM BLOOD Glucose-103* UreaN-9 Creat-0.7 Na-137 
K-4.3 Cl-98 HCO3-29 AnGap-14
___ 07:06AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.2

STUDIES/REPORTS:
===============
___ CT CHEST W/O CONTRAST ___: Unopacified 
Pulmonary arterial tree: Unremarkable
Thoracic aorta: Unremarkable
Lungs: Lower lobe dependent atelectasis consolidation, 
costophrenic
regions both sides.
Tracheobronchial tree: Right-sided lower lobe airways 
thickening, and
possibly secretions or mucous plugs, suggesting bronchitis.
Pleura: Small amount of left pleural fluid. No left 
pneumothorax.
Heart, pericardium: Coronary artery calcification.
Mediastinum: No emphysema, no significant adenopathy.
Thoracic esophagus: Within normal limits
Thoracic skeleton: Hairline left posterior lateral ninth rib 
fracture
without displacement. Slightly displaced posterior lateral left 
eighth
rib fracture. Half shaft width left posterior lateral seventh 
rib
fracture noted. Adjacent extrapleural soft tissue swelling.
Upper abdomen imaged: Fatty liver, otherwise negative. Prior
cholecystectomy, no hemoperitoneum or free air. Possibly mild 
colonic
ileus pattern, air-fluid levels in the colon. Right 3 mm renal
calculus nonobstructing seen in the upper collecting system.
Chest wall soft tissues: No hematoma.
 
CONCLUSIONS:
1. Acute slightly displaced left seventh through ninth fractures 
as
noted with extrapleural soft tissue swelling, small left pleural
effusion. No pneumothorax.
2. Lower lobe atelectasis and subpleural costophrenic 
consolidations,
possibly pneumonia. Accompanying right lower lobe bronchitis, 
clinical
correlation advised.
3. Incidental fatty liver. Cholecystectomy. Other incidental 
findings
below the diaphragm.

MICRO:
=====
NONE
 
Brief Hospital Course:
___ M with PMHx hypothyroidism who was admitted as a trauma 
transfer from ___ with left rib fractures (___) after a 
mechanical fall found to have multi-lobar pneumonia. CT Chest 
revealed hairline left posterior lateral 9th rib fracture with 
displacement, slight displacement posterior lateral left 8th rib 
fracture, and half shaft width left posterior lateral 7th rib 
fracture with lower lobe atelectasis and subpleural costophrenic 
consolidations. Trauma surgery consulted with no surgical 
interventions or follow up. Decision made to treat pneumonia 
with Levofloxacin (___) for ___uring admission, 
patient reported good control with ibuprofen, tylenol, and 
lidocaine patch to left ribs.  Discharged with instructions to 
alternative ibuprofen and tylenol and to take ultram for severe 
pain as needed as was prescribed by outside provider.  Given 
prescription for lidocaine ointment and incentive spirometer. 

TRANSITIONAL ISSUES:
===================
- Patient noted to have thrombocytopenia on admission, nadir 
91k, which is chronic issue per patient. Please follow up 
outpatient. 

Discharge Medications
NEW 
- Levofloxacin 750 mg PO Q24H (___) x 5 day course 
- Lidocaine 5% Ointment 1 Appl TP ONCE left flank 
SAME 
- Levothyroxine Sodium 200 mcg PO DAILY 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 200 mcg PO DAILY 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO Q24H 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0 
2.  Lidocaine 5% Ointment 1 Appl TP ONCE left flank as needed 
for pain Duration: 1 Dose 
RX *lidocaine 5 % Please apply to left flank two to three times 
per day Disp #*1 Tube Refills:*0 
3.  Levothyroxine Sodium 200 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Rib Fractures (___)
Community Acquired Pneumonia

Secondary Diagnosis:
Thrombocytopenia
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after you fell on your side 
and fractured your ribs.  You were found to have a pneumonia.  
You were started on antibiotics for your pneumonia.  The trauma 
surgeons evaluated you and you do not need any specific 
intervention for your rib fractures.

- Please take your antibiotics as prescribed.
- You can buy Tylenol and ibuprofen at the pharmacy and take as 
prescribed for pain.  Do not take ibuprofen for more than 3 days 
consistently.
- You were prescribed topical lidocaine that you should rub onto 
gauze before taping to your left ribs.
- If your pain is really severe, you can take your tramadol that 
was prescribed for you from your primary care doctor's office
- Use your incentive spirometer at home to help make sure you 
continue to breathe deeply.

Please call your primary care doctor's office ___ to schedule 
a follow up appointment for this hospitalization.

Please seek immediate medical attention if you develop 
difficulty breathing, worsening cough, or worsening rib pain.

We wish you the best of health moving forward,

Your ___ Care Team
 
Followup Instructions:
___